data/mechanism_extracts/ACSCatal/10.1021_acscatal.8b03302.json
{"doi": "10.1021_acscatal.8b03302", "journal": "ACSCatal", "is_review": false, "rxn_class_summary": "Electrochemical oxidative alkoxysulfonylation of alkenes with sulfonyl hydrazines and alcohols to give beta-alkoxy sulfones", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of sulfonyl hydrazine to a sulfonyl radical (via diazo intermediate, losing N2); second anodic oxidation of the beta-sulfonyl carbon radical to a benzyl cation; cathodic reduction of ROH/H+ to H2 and alkoxide", "key_intermediates": [{"name": "sulfonyl diazo intermediate (R-SO2-N=N*) after anodic oxidation and deprotonation", "smiles": null, "role": "transient"}, {"name": "sulfonyl radical (R-SO2*) after N2 loss", "smiles": null, "role": "reactive"}, {"name": "beta-sulfonyl benzyl carbon radical from addition to styrene", "smiles": null, "role": "reactive"}, {"name": "beta-sulfonyl benzyl cation after second anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "beta-alkoxy sulfone product", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes the sulfonyl hydrazine (with -3H+/-3e-) to a diazo species that loses N2 to give a sulfonyl radical, which adds to the styrene to form a benzyl radical; this radical is further oxidized at the anode to a benzyl cation that is trapped by the alcohol and deprotonated, while protons and ROH are reduced at the cathode to H2 and alkoxide.", "rate_determining_step": null, "probe_reagents": [{"name": "alpha-cyclopropyl styrene (radical clock 2m)", "smiles": "C=C(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Both direct beta-alkoxy sulfone 5m (41%) and ring-opened product 5m' (40%) isolated, indicating intermediacy of a carbon radical that undergoes cyclopropyl ring-opening"}, {"name": "cyclic voltammetry of 1a and 2a", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peak of 1a at 1.91 V and 2a at 2.19 V (vs Ag/AgCl), indicating 1a (sulfonyl hydrazine) is oxidized preferentially at the anode"}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Catalyst-free, additive/oxidant-free electrolysis with carbon anode and Ni cathode in undivided cell; N2 and H2 are the only byproducts. Mechanism proposed on the basis of CV and radical clock evidence; no DFT, TEMPO trapping, or KIE reported."}
